US07179912B2
3-Methoxy-1-morpholin-4-yl-benzene
To a stirred mixture of 3-morpholinyl-phenol (3.8 g; 21.2 mmol) and powdered K2CO3 (4.4 g; 31.8 mmol) in dry DMF (15 mL) was added iodomethane (1.45 mL; 23.3 mmol) via syringe at room temperature under nitrogen atmosphere. The resulting mixture was allowed to stir at room temperature for 22 hours. The reaction was diluted with ether (150 mL) and washed successively with water (2×40 mL) and brine (40 mL), then dried (MgSO4), filtered and concentrated in vacuo to provide the desired ether as a yellow oil (2.51 g; 61%).

reactant | 3-morpholinyl-phenol | 21.2 mmol, 3.8 g | N1(CCOCC1)C=1C=C(C=CC1)O | C10H13NO2
reactant | K2CO3 | 31.8 mmol, 4.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | iodomethane | 23.3 mmol, 1.45 mL | IC | CH3I
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | ether | 150 mL | CCOCC | C4H10O
product | 3-Methoxy-1-morpholin-4-yl-benzene | COC=1C=C(C=CC1)N1CCOCC1 | C11H15NO2
